US07223776B2
10.c) 4-[(Benzo[1.3]dioxol-5-ylmethyl)-amino]-1-[2-(6-methoxy-quinazolin-4-yl)-ethyl]-cyclohexanol
Piperonylamine (0.030 ml, 0.24 mmol) and sodium triacetoxyborohydride (0.08 g, 0.377 mmol) were added to a solution of 4-hydroxy-4-[2-(6-methoxy-quinazolin-4-yl)-ethyl]-cyclohexanone (0.06 g, 0.2 mmol) in dichloromethane (1 ml). The reaction mixture was stirred overnight and then filtered over Hydromatrix (wetted with an NaHCO3 solution, 2 ml) and subsequently washed with dichloromethane. The filtrate was concentrated to dryness by rotary evaporation. The residue was purified by column chromatography on silica gel (dichloromethane:MeOH 9/1 and then dichloromethane:MeOH 9/1 and 2% triethylamine).

reactant | Piperonylamine | 0.24 mmol, 0.030 ml | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | sodium triacetoxyborohydride | 0.377 mmol, 0.08 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-hydroxy-4-[2-(6-methoxy-quinazolin-4-yl)-ethyl]-cyclohexanone | 0.2 mmol, 0.06 g | OC1(CCC(CC1)=O)CCC1=NC=NC2=CC=C(C=C12)OC | C17H20N2O3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-[(Benzo[1.3]dioxol-5-ylmethyl)-amino]-1-[2-(6-methoxy-quinazolin-4-yl)-ethyl]-cyclohexanol | O1COC2=C1C=CC(=C2)CNC2CCC(CC2)(O)CCC2=NC=NC1=CC=C(C=C21)OC | C25H29N3O4
